US06221863B1
3-(1,2,3,6-Tetrahydro-pyridin4-yl)-1H-pyrrolo[2,3-b]pyridine
7-Azaindole (10 g, 85 mmol), 4piperidone (34 g,0.22 mol) and potassium hydroxide (16.83 g, 0.3 mol) were heated to reflux in 150 ml methanol overnight. The reaction was cooled, filtered and concentrated to give an orange slurry. The slurry was then extracted with methylene chloride and washed with water. The organic layer was dried over anhydrous magnesium, filtered and concentrated to afford 14.2 g (84%) of product as a solid: mp 195-199° C.

reactant | 7-Azaindole | 85 mmol, 10 g | N1C=CC2=CC=CN=C12 | C7H6N2
reactant | 4piperidone | 0.22 mol, 34 g | N1CCC(CC1)=O | C5H9NO
reactant | potassium hydroxide | 0.3 mol, 16.83 g | [OH-].[K+]
solvent | methanol | 150 ml | CO | CH4O
product | 3-(1,2,3,6-Tetrahydro-pyridin4-yl)-1H-pyrrolo[2,3-b]pyridine | 14.2 g, 84% | N1CCC(=CC1)C1=CNC2=NC=CC=C21 | C12H13N3
